US08168658B2
Step B: [4-(tert-Butoxycarbonyl)phenyl]acetic acid.
To a solution of dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate (4.00 g, 13.0 mmol) in THF (30 mL) and MeOH (10 mL) was added NaOH (2N, 19.5 mL, 38.9 mmol). After stirring the reaction for 45 minutes at room temperature, it was diluted with 1 M citric acid and extracted with EtOAc. The organic layer was washed (water, brine), dried (MgSO4), and concentrated to a yellow residue. The residue was redissolved in EtOAc (50 mL) and H2O (50 mL) and stirred for 2 h at 80° C. The mixture was extracted with EtOAc, washed with water and brine, dried (MgSO4), and concentrated to give [4-tert-butoxycarbonyl)phenyl]acetic acid as an off-white solid. MS (ESI) calcd [M+Na]+ 259.1, found 259.1.

reactant | dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate | 13.0 mmol, 4.00 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C16H20O6
reactant | NaOH | 38.9 mmol, 2N, 19.5 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
solvent | citric acid | 1 M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | [4-(tert-Butoxycarbonyl)phenyl]acetic acid | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC(=O)O | C13H16O4
